US04663319
A mixture of 2,4-dioxopiperidine (15.1 g), methyl orthoformate (30 ml) and p-toluenesulfonic acid (3.0 g) in methanol (300 ml) is refluxed for 1 hour. After evaporating the solvent, the residue is dissolved in benzene and refluxed for 5 hours. To the solution is added potassium carbonate (9.0 g), and the mixture is stirred overnight at room temperature and then filtered. The filtrate is distilled to remove the solvent. The residue is recrystallized from ethyl acetate-isopropyl alcohol to give 4-methoxy-5,6-dihydro-2(1H)-pyridone (12.3 g, 72.5%) as colorless prisms. m.p. 115°-117° C.

reactant | 2,4-dioxopiperidine | 15.1 g | O=C1NCCC(C1)=O | C5H7NO2
reactant | methyl orthoformate | 30 ml | C(OC)([O-])[O-]
reactant | p-toluenesulfonic acid | 3.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 300 ml | CO | CH4O
product | 4-methoxy-5,6-dihydro-2(1H)-pyridone | 12.3 g, 72.5% | COC1=CC(NCC1)=O | C6H9NO2
